US06900215B2
3-Bromoisonicotinonitrile (2.0 g, 10.9 mmol) was coupled to 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (3.8 g, 14.2 mmol) using the method in Example 51. Purification by chromatography on silica gel eluting with dichloromethane containing 10% isohexane gave 3-(2-fluoro-5-nitrophenyl)isonicotinonitrile as a white solid: δH (400 MHz, CDCl3) 7.46 (1H, t, J 9), 7.71 (1H, dd, J 5 and 1), 8.38-8.46 (2H, m), 8.87 (1H, s), 8.91 (1H, d, J 5).

reactant | 3-Bromoisonicotinonitrile | 10.9 mmol, 2.0 g | BrC1=C(C#N)C=CN=C1 | C6H3BrN2
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 14.2 mmol, 3.8 g | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 3-(2-fluoro-5-nitrophenyl)isonicotinonitrile | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C#N)C=CN=C1 | C12H6FN3O2
